US08877934B2
Step A: 4-Bromo-2,6-dimethyl-pyridine 1-oxide
4-Bromo-2,6-dimethylpyridine (0.5 g, 2.69 mmol) was dissolved in DCM (10 ml), cooled to 0° C. and combined with a solution of m-chloroperbenzoic acid in DCM (75%, 0.928 g, 4.03 mmol in 5 ml). The resulting mixture was stirred at 0° C. for 15 minutes and for 5 hours at room temperature. The mixture was washed with saturated sodium bicarbonate solution, the phases were separated with a phase separator, the organic phase was evaporated under reduced pressure. The residue was purified by column chromatography (silica, gradient of 0.5 to 10% methanol in DCM). 475 of a yellow solid was obtained (2.35 mmol, 88%). MS (ESI) m/z=204.0 [M+1]+.

reactant | 4-Bromo-2,6-dimethylpyridine | 2.69 mmol, 0.5 g | BrC1=CC(=NC(=C1)C)C | C7H8BrN
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 4.03 mmol, 5 ml, 0.928 g | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2,6-dimethyl-pyridine 1-oxide | BrC1=CC(=[N+](C(=C1)C)[O-])C | C7H8BrNO
